US04472310
200 mg of 17β-acetoxy-3β-benzoyloxy-7α-chloro-5,6β-epoxy-15β,16β-methylene-5β-androstane is stirred in 4 ml of acetic acid and 4 ml of propan-2-ol with 800 mg of zinc dust for 1 hour at 80° C. The mixture is filtered off from the zinc, washed with diethyl ether, and worked up analogously to Example 1. After chromatography and recrystallization from diisopropyl ether-acetone, 135 mg of 17β-acetoxy-3β-benzoyloxy-15β,16β-methylene-5β-androst-6-en-5-ol is obtained, mp 212°-212.5° C.

reactant | 17β-acetoxy-3β-benzoyloxy-7α-chloro-5,6β-epoxy-15β,16β-methylene-5β-androstane | 200 mg | C(C)(=O)O[C@@H]1[C@]2(C)[C@@H]([C@H]3[C@@H]1C3)[C@@H]3[C@@H]([C@@H]1[C@@]4(C[C@H](CC[C@]4(C)[C@H]3CC2)OC(C2=CC=CC=C2)=O)O1)Cl | C29H35ClO5
reactant | propan-2-ol | 4 ml | CC(C)O | C3H8O
solvent | acetic acid | 4 ml | C(C)(=O)O | C2H4O2
catalyst | zinc | 800 mg | [Zn] | Zn
product | 17β-acetoxy-3β-benzoyloxy-15β,16β-methylene-5β-androst-6-en-5-ol | 135 mg | C(C)(=O)O[C@@H]1[C@]2(C)[C@@H]([C@H]3[C@@H]1C3)[C@@H]3C=C[C@@]1(C[C@H](CC[C@]1(C)[C@H]3CC2)OC(C2=CC=CC=C2)=O)O | C29H36O5
